US05705669
135 g (2.94 mol) of absolute ethanol are cooled to -15° C. under a nitrogen atmosphere. 7.4 g (0,435 mol) of ammonia are then introduced at this temperature with constant stirring. 86 g (0.376 mol) of chloro-(n-hexyl)phenyl-phosphine are then added dropwise at this temperature in 40 minutes, then the mixture is allowed to come to room temperature with stirring, is filtered by suction and washed with ethanol. The filtrate is freed from ethanol and any ammonia present in vacuo. The remaining residue is distilled. 71 g of ethyl n-hexyl(phenyl)phosphinite are obtained at 1.1 mbar and an overhead temperature of 110° C. This corresponds to a yield of 79% of theory.

reactant | ethanol | 2.94 mol, 135 g | C(C)O | C2H6O
reactant | ammonia | 0,435 mol, 7.4 g | N | H3N
reactant | chloro-(n-hexyl)phenyl-phosphine | 0.376 mol, 86 g | ClP(C1=CC=CC=C1)CCCCCC | C12H18ClP
product | ethyl n-hexyl(phenyl)phosphinite | 71 g, yield of 79% | C(CCCCC)P(OCC)C1=CC=CC=C1 | C14H23OP
